US08426447B2
50 ml Flask was charged with 2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine (1.000 g, 2.188 mmol), pyrimidin-5-ylboronic acid (0.380 g, 3.06 mmol), tetrakis(triphenylphosphine)palladium (0.126 g, 0.109 mmol) and DME (10 mL). Sodium carbonate (3.28 mL, 6.56 mmol) was added and the reaction mixture was stirred at 65° C. for 16 hrs. The brown mixture with precipitate was filtered and the solids were washed with DME (3 ml), water (5 ml) and methanol (5 ml), dried on air. The material was treated with 10 ml of DCM and filtered, filtrate was evaporated to afford to afford 2′-bromo-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as white solid

reactant | 2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 2.188 mmol, 1.000 g | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)I)N=C(OC3)N | C15H10BrIN2O2
reactant | pyrimidin-5-ylboronic acid | 3.06 mmol, 0.380 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Sodium carbonate | 6.56 mmol, 3.28 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.109 mmol, 0.126 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 2′-bromo-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N | C19H13BrN4O2
